US04238405
Four grams of isopropyl 1,2-dichloro-2-cyanovinyl sulfide, prepared in Example 1, was dissolved in 50 milliliters methylene dichloride and the solution was cooled to 0° C. Four grams of solid 85% m-chloroperbenzoic acid was added in portions over one half hour. The reaction mixture was stirred for two hours while the temperature was maintained at 0° C. The reaction mixture was then filtered and washed with 5% potassium carbonate solution. The organic layer was dried over anhydrous magnesium sulfate and stripped of volatiles. A yield of 3 grams of isopropyl 1,2-dichloro-2-cyanovinyl sulfoxide having a refractive index--nD30 =1.5112 was obtained. The structure of the product was confirmed by IR and NMR.

reactant | isopropyl 1,2-dichloro-2-cyanovinyl sulfide | Four grams | ClC(=C(C#N)Cl)SC(C)C | C6H7Cl2NS
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene dichloride | 50 milliliters | C(Cl)Cl | CH2Cl2
product | isopropyl 1,2-dichloro-2-cyanovinyl sulfoxide | yield of 3 grams | ClC(=C(C#N)Cl)S(=O)C(C)C | C6H7Cl2NOS
